US04876249
Preparation of 4-methyl-2-undecyl-2-oxazoline
10.9 g (60 mmoles) of undecyl cyanide was treated with 5 g (66.6 mmoles) of DL-2-amino-1-propanol in presence of 400 mg (1.5 mmoles) of cadmium acetate dihydrate in 1-butanol as outlined under Example 1. 13.2 g (92%) of product was obtained on distillation at 115°-117° C./1-1.5 mm Hg.

reactant | undecyl cyanide | 60 mmoles, 10.9 g | C(CCCCCCCCCC)C#N | C12H23N
reactant | DL-2-amino-1-propanol | 66.6 mmoles, 5 g | CC(CO)N | C3H9NO
solvent | 1-butanol | C(CCC)O | C4H10O
catalyst | cadmium acetate dihydrate | 1.5 mmoles, 400 mg | O.O.C(C)(=O)[O-].[Cd+2].C(C)(=O)[O-]
product | 4-methyl-2-undecyl-2-oxazoline | 13.2 g, 92% | CC1N=C(OC1)CCCCCCCCCCC | C15H29NO
